Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___
 
Chief Complaint:
Dyspnea, Atrial Fibrillation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with pmhx of COPD (nighttime O2), htn, afib who presents 
with dyspnea, currently being treated for COPD and admitted for 
Afib with RVR.  
 The patient went to the ED on ___ and was diagnosed with a 
COPD flare. She was discharged with a prednisone taper 
(currently on 60mg) and azithromycin. This AM she initially felt 
well, then developed dyspnea at rest, worsening with exertion. 
Her inhalers improved her SOB. She felt that these symptoms were 
consistent with her COPD. She saw her PCP ___ today in 
clinic where she was found to be in Afib w/ RVR, rate around 
110-120. She has a history of afib. He referred her to the ED 
for persistent SOB and afib with RVR. She states she been 
compliant with nebs and steroid/azithro regimen. She denies any 
___ edema, orthopnea. She denies recent travel, surgeries. She 
had an episode of chest tightness this AM that felt like her 
COPD flares. Denies fevers or coughing or production of sputum, 
hemomptysis.  
 
Past Medical History:
ASTHMA/COPD  
 ATYPICAL CHEST PAIN  
 CERVICAL RADICULITIS  
 CERVICAL SPONDYLOSIS  
 CORONARY ARTERY DISEASE  
 HEADACHE  
 HIP REPLACEMENT  
 HYPERLIPIDEMIA  
 HYPERTENSION  
 OSTEOARTHRITIS  
 HERPES ZOSTER  
 ATRIAL FIBRILLATION  
 ANXIETY  
 GASTROINTESTINAL BLEEDING  
 OSTEOARTHRITIS  
 ATHEROSCLEROTIC CARDIOVASCULAR DISEASE  
 PERIPHERAL VASCULAR DISEASE
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: 98.14 154/74 71 24 98% 2L  
 GENERAL: Well appearing, NAD, no accessory muscle use.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
 NECK: No JVD  
 CARDIAC: Irregular rhythm, normal rate. Normal S1, S2. No 
murmurs/rubs/gallops.  
 LUNGS: Moving air well bilaterally. Trace inspiratory wheezing 
and louder expiratory wheezing in all lung fields. No 
crackles/rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  

DISCHARGE PHYSICAL EXAM:
VS: Tm 98.8 Tc 98.4 ___ RA
GENERAL: NAD
HEENT: NCAT. Sclera anicteric. Conjunctivae noninjected. OM 
clear.
NECK: No JVD  
CARDIAC: RRR. Normal S1, S2. No murmurs/rubs/gallops.  
LUNGS: Mildly reduced air movement, significant wheezing 
bilaterally, +rhonchi, no crackles  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. 
 
Pertinent Results:
ADMISSION LABS:
___ 03:38PM BLOOD WBC-7.2 RBC-4.06 Hgb-9.4* Hct-31.4* 
MCV-77* MCH-23.2* MCHC-29.9* RDW-16.9* RDWSD-47.2* Plt ___
___ 03:38PM BLOOD Neuts-93.8* Lymphs-4.2* Monos-1.3* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-6.74*# AbsLymp-0.30* 
AbsMono-0.09* AbsEos-0.00* AbsBaso-0.00*
___ 03:38PM BLOOD ___ PTT-30.3 ___
___ 03:38PM BLOOD Glucose-141* UreaN-20 Creat-1.0 Na-133 
K-3.8 Cl-93* HCO3-30 AnGap-14
___ 03:38PM BLOOD Calcium-9.9 Phos-2.8 Mg-2.1

PERTINENT LABS:
___ 03:58PM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:50AM BLOOD calTIBC-398 Ferritn-16 TRF-306
___ 06:50AM BLOOD TSH-4.5*
___ 09:31AM BLOOD ___ pO2-73* pCO2-58* pH-7.35 
calTCO2-33* Base XS-3     
___ 07:15AM BLOOD T4, FREE, DIRECT DIALYSIS-Test  

DISCHARGE LABS:    
___ 05:30AM BLOOD WBC-13.2* RBC-3.97 Hgb-9.0* Hct-31.1* 
MCV-78* MCH-22.7* MCHC-28.9* RDW-17.4* RDWSD-48.7* Plt ___
___ 05:30AM BLOOD Glucose-85 UreaN-23* Creat-0.9 Na-136 
K-3.9 Cl-95* HCO3-30 AnGap-15
___ 06:30AM BLOOD Calcium-9.7 Phos-3.0 Mg-2.0

IMAGING:
___ Chest X ray: Relative increase in opacity over the lung 
bases bilaterally felt due to overlying soft tissue rather than 
consolidation.  Lateral view may be helpful for confirmation.

___ Chest X ray: There is hyperinflation.  There is no 
pneumothorax, effusion, consolidation or CHF.  There is probable 
osteopenia.
 
Brief Hospital Course:
___ is a ___ with a history of CAD, PVD, and 
COPD and history of recurrent chest pain who presented with afib 
with RVR and COPD exacerbation. 
  
ACUTE PROBLEMS:

#COPD exacerbation: Ms. ___ had had two recent ED visits 
for COPD exacerbation, most recently ___ when she was started 
on prednisone 60 mg. She presented to her PCP's office with 
worsening dyspnea despite this therapy and was also complaining 
of nasal congestion, suggesting a viral URI trigger. In clinic 
she was also noted to be in afib with RVR so was referred to the 
ED where she was admitted after control of her heart rate (see 
below). On admission to the floor, she was noted to have 
wheezing, increased work of breathing, and poor air movement. 
She was treated with 125 mg solumedrol and maintained on 60 mg 
PO prednisone daily. Her home theophylline was decreased from 
400 mg BID to ___ mg BID due to concerns it was contributing to 
her tachyarrhythmia. She was placed on ipratropium nebs q6h, 
albuterol nebs q2h, and fluticasone-salmeterol. Pulmonary was 
consulted and recommended a trial of diuresis so she received 10 
mg IV Lasix as well. Azithromycin was not given due to concerns 
for QT prolongation with theophylline and amiodarone (QTc was 
460). She was started on a 5 day course of ceftriaxone instead, 
and discharged to finish the course with cefpodoxime. She was 
discharged with a prednisone taper (10 mg decrease q3d until at 
10 mg, then stay at 10 mg until pulm follow up) as well as 
follow up with pulmonary rehab and a pulmonologist she 
previously followed with, Dr. ___. She was also discharged on 
2L supplemental O2 to be worn at all times. 

#Atrial fibrillation: Ms. ___ has known atrial 
fibrillation for which she was on amiodarone and apixaban but 
was found to have HR in the 120s in her PCP's office, prompting 
her referral to the ED. Her COPD exacerbation was the likely 
precipitant, with medications also possibly contributing, 
particularly theophylline. She was started on a diltiazem gtt in 
the ED to control her rates than transitioned to diltiazem 90 mg 
q6h. After arrival to the floor, her rates remained controlled. 
Her amiodarone and apixaban were continued. Her theophylline was 
decreased to 200 mg BID from 400 mg BID.

#Iron deficiency anemia. Patient was found to have microcytic 
anemia with low iron and ferritin. She was started on IV iron 
125 mg ferric gluconate x4 doses and wasdischarged on PO iron 
with a bowel regimen. Her H/H was stable throughout the 
hospitalized; there was no evidence of bleeding.

Transitional issues:
- patient discharged on prednisone taper: decrease by 10 mg 
every 3 days until at 10 mg, then keep at 10 mg until seen by 
pulmonology
- patient discharged with plan to follow up with pulmonology and 
pulmonary rehab. Can call ___ to schedule appointment 
with pulmonary rehab.
- patient discharged on with 2 days of cefpodoxime to complete 5 
day course of antibiotics for severe COPD exacerbation
- patient discharged with O2 concentrator for continuous home O2
- patient's theophylline decreased from 300 mg BID to ___ mg BID 
due to her afib with RVR; may want to consider further 
theophylline wean, and addition of azithromycin (if QTc is 
decreased as patient also on amiodarone), and/or roflumilast 
therapy
- patient found to be iron deficient, started on IV iron 
repletion, discharged on PO iron
- patient found to have elevated TSH, please follow up free T4 
which was pending on discharge
- Code: full
- Emergency Contact ___ (Husband) ___ 
Daughter ___: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Apixaban 5 mg PO BID 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
4. Amiodarone 200 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Artificial Tears ___ DROP BOTH EYES PRN irritation 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
8. Diltiazem Extended-Release 180 mg PO BID 
9. Fluticasone Propionate NASAL 1 SPRY NU BID 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. Hydrochlorothiazide 50 mg PO DAILY 
12. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
13. Lorazepam 0.5 mg PO QHS:PRN insomnia 
14. Theophylline ER 300 mg PO BID 
15. Ranitidine 300 mg PO DAILY 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Multivitamins W/minerals 1 TAB PO DAILY 
18. Aspirin 81 mg PO DAILY 
19. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Home O2
2 Liters continuous nasal cannula with exertion
Diagnosis: chronic obstructive pulmonary disease (J44.9)
Length of Needs: ongoing (years)
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Amiodarone 200 mg PO DAILY 
4. Apixaban 5 mg PO BID 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath 
6. Artificial Tears ___ DROP BOTH EYES PRN irritation 
7. Aspirin 81 mg PO DAILY 
8. Atorvastatin 10 mg PO QPM 
9. Diltiazem Extended-Release 180 mg PO BID 
10. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
11. Fluticasone Propionate NASAL 1 SPRY NU BID 
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
16. Lorazepam 0.5 mg PO QHS:PRN insomnia 
17. Multivitamins W/minerals 1 TAB PO DAILY 
18. Ranitidine 300 mg PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Theophylline SR 200 mg PO BID 
RX *theophylline 200 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
21. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 2 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*4 
Tablet Refills:*0
22. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
23. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
24. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0
25. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN dyspnea, wheezing 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 neb INH Every six 
hours Disp #*30 Nebule Refills:*0
26. PredniSONE 10 mg PO ASDIR 
50 mg ___, then 
40 mg ___, then
30 mg ___, then
20 mg ___, then
10 mg ongoing 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 to 5 tablet(s) by mouth As directed Disp 
#*50 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Chronic obstructive pulmonary disease
Atrial fibrillation with rapid ventricular response

Secondary diagnoses:
Hypertension
Coronary artery disease
Peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ 
because you were having difficulty breathing and were found in 
clinic to have a fast heart rate. Your difficulty breathing was 
due to your COPD flaring. Your fast heart rate was due to your 
atrial fibrillation, which is an irregular heart rate that can 
sometimes cause the heart to beat very quickly. Medications that 
you were taking, such as theophylline, were likely contributing. 
Your heart rate was lowered using the same medication that you 
take at home, diltiazem, given through your IV. 

Your COPD was likely worsened because of a cold. However, your 
flare was very serious requiring IV steroids and many inhaled 
treatments. You should follow up with the lung doctors as ___ 
as with pulmonary rehab to make sure your lung disease is being 
treated as well as possible to prevent you from coming into the 
hospital as often. Please call ___ to schedule an 
appointment with them.

It was a pleasure participating in your care. We wish you all 
the best in the future.

Sincerely,

Your ___ team
 
Followup Instructions:
___